US09422281B2
A mixture of isopropyl (S)-6-acetamido-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.011 g, 0.027 mmol), 2-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propan-2-ol (0.0085 g, 0.032 mmol), cesium carbonate (0.026 g, 0.080 mmol), XPhos (0.001 g, 0.003 mmol) and tris(dibenzylideneacetone)dipalladium (0.001 g, 0.002 mmol) in 1,4-dioxane (0.25 mL) and water (0.05 mL) was heated for 16 h at 90° C. The reaction was cooled to rt and concentrated. The residue was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate solution. The organic phase was concentrated and the residue was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated in a Genevac to afford isopropyl (S)-6-acetamido-4-acetyl-7-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 472 [M+H]+.

reactant | isopropyl (S)-6-acetamido-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.027 mmol, 0.011 g | C(C)(=O)NC=1C=C2N([C@H](CN(C2=CC1Br)C(=O)OC(C)C)C)C(C)=O | C17H22BrN3O4
reactant | 2-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propan-2-ol | 0.032 mmol, 0.0085 g | CC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)(C)O | C13H23BN2O3
reactant | cesium carbonate | 0.080 mmol, 0.026 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | XPhos | 0.003 mmol, 0.001 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | 1,4-dioxane | 0.25 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.05 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.002 mmol, 0.001 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | isopropyl (S)-6-acetamido-4-acetyl-7-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)NC=1C=C2N([C@H](CN(C2=CC1C=1C=NN(C1)CC(C)(C)O)C(=O)OC(C)C)C)C(C)=O | C24H33N5O5
